### ISSUE TITLE
RFC: Allow `induction` to work without targets and to assign metavariables

### ISSUE THREAD

**Issue by Rob23oba** [leanprover/lean4#8200]
### Proposal

The introduction of complex arguments to `induction` and `cases` allows for a wider variety of induction principles. However, it is still not possible to use induction principles like `List.foldlRecOn` which *only* has complex arguments. A workaround currently is to add a dummy parameter:
```lean
def List.foldlRecOn' {motive : Unit → β → Sort _} (l : List α) (op : β → α → β)
    {b : β} (init : ∀ x, motive x b) (step : ∀ x b, motive x b → (a : α) → a ∈ l → motive x (op b a))
    (dummy : Unit) : motive dummy (List.foldl op b l) :=
  List.foldlRecOn l op (init dummy) (step dummy)

example {xs : List Nat} : xs.foldl (· + ·) 1 > 0 := by
  have : Unit := ()
  induction this using List.foldlRecOn'
```
There is however still another problem which is that `induction` doesn't try to assign the unknown variables `l`, `op` and `b` by unification in the goal, creating new goals for them and thus making it necessary to instead specify them explicitly:
```
example {xs : List Nat} : xs.foldl (· + ·) 1 > 0 := by
  have : Unit := ()
  induction this using List.foldlRecOn' xs (· + ·) (b := 1)
```
In other examples where these parameters are longer to write down this can be quite a hassle though. Ideally `induction` would find the `foldl` in the goal and assign the variables accordingly and allow induction without non-complex targets:
```
example {xs : List Nat} : xs.foldl (· + ·) 1 > 0 := by
  induction using List.foldlRecOn
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
That's two RFCs :-)

Thanks for starting these discussion, it’s also useful to explore the consequences of allowing complex motive arguments (which was added by me in #8096). Maybe the conclusion will be that that was a bad idea :-)

I agree that allowing zero targets in `indction` seems reasonable. It’s a corner-case, but not a completely bogus one. This would also allow `induction` to be used with theorems that simply conclude with a (nullary) `motive`, so why not.

--- 

My current implementation of complex motive arguments simply skips them if `kabstract` doesn’t work for them. This may be ok for the best-effort functional unfolding theorems, which are still useful even if the rewriting doesn't happen, but may be more severe for lemmas that are only useful if the complex parameter of the motive is properly abstracted over.


---

> Ideally it would be possible to write down the induction as is without targets and let induction find the foldl in the goal and assign the variables accordingly

Note that we have functionality like this, but it’s currently not part of the `induction` tactic, but rather the function induction tactic, at least in the special case “There is a function that’s associated with the induction rule, and if we have a function call, then we can derive the functional induction theorem parameters and targets from it”.

It seems that `List.foldlRecOn` is an instance of this: The common case is that you have a call to `List.foldl` in your goal, and that should guide the theorem instantiation. 

In fact, I’d argue that `List.foldlRecOn` is not a great theorem, as the motive does not have access to the parameters of `foldl`, only the result. It is an impoverished version of `foldl.induction_unfold` in that sense; you can obtain it from . (It eliminates into `Sort`, so in that way it’s stronger of course). For example, a proof like the following needs the ability for the motive to talk about how `foldl` relates to its arguments.
```
example: List.foldl (fun a _ => a + 1) b xs = b + xs.length := by
  induction b, xs using List.foldl.induct_unfolding (fun a _ => a + 1) <;> (simp_all <;> omega)
```

Granted, for proofs where that isn’t necessary, it may be nicer to have a simpler theorem.

So maybe there is room for additional heuristics in `induction`, e.g. looking for complex arguments in the motive, then looking (like `fun_induction`) for possible instantiations in the goal, and using that to infer the parameters.

I wonder if this would even subsume the logic that `fun_induction` applies to map between function parameters and induction parameters/targets. Then maybe one could have
```
fun_induction foldl f b xs usnig List.foldRecOn
```
for the cases where there isn’t a unique `foldl` call in the goal to infer the parameters from, but to still have the convenience of specifying the arguments to `foldlr`, rather the parameters/targets of the induction principle.

**Comment by nomeata** [comment]
I'm not yet convinced it's better - how would you prove a relation between `test x` and `x` with that scheme.

And even with the other one the arguments to the function don't have to be variables; if you use `induction` or `fun_induction` and pass complex expressions as targets, they will just be generalized and all is well, won't it? (Genuine question, I might be wrong and am away from a computer right now)

**Comment by Rob23oba** [comment]
Oh well yeah you're right. I forgot that was recently added as a feature. Still, it doesn't quite work as well as with it being a parameter, see this example:
```lean
def test (x : Nat) : Nat :=
  if x < 5 then 27
  else if x % 2 = 1 then 349
  else 10

@[elab_as_elim]
theorem test.fun_cases_unfolding' {motive : Unit → Nat → Prop} (x : Nat) (dummy : Unit)
    (case1 : x < 5 → motive dummy 27)
    (case2 : ¬x < 5 → x % 2 = 1 → motive dummy 349)
    (case3 : ¬x < 5 → ¬x % 2 = 1 → motive dummy 10) :
    motive dummy (test x) := by
  induction x using test.fun_cases_unfolding
  · apply case1 ‹_›
  · apply case2 ‹_› ‹_›
  · apply case3 ‹_› ‹_›

example (x : Nat) : test (x + 5) ≠ 27 := by
  induction x + 5 using test.fun_cases_unfolding with
  | case1 x h =>
    -- x : Nat, h : x < 5 ⊢ 27 ≠ 27
    sorry -- impossible
  | case2 x h h' => decide
  | case3 x h h' => decide

example (x : Nat) : test (x + 5) ≠ 27 := by
  have dummy := ()
  induction dummy using test.fun_cases_unfolding' (x + 5) with
  | case1 h => contradiction -- h : x + 5 < 5
  | case2 h h' => decide
  | case3 h h' => decide
```
When using `test.fun_cases_unfolding`, we lose the `x + 5` needed to make `x + 5 < 5` a contradiction. The fix is of course to use `induction hx : x + 5` and then `cases hx` in `case1` but when using `test.fun_cases_unfolding'` we don't need to generalize *or* to add a hypothesis to `x + 5`.

**Comment by Rob23oba** [comment]
I also just realized a problem with complex arguments in induction which is that, because they are not present in the syntax you can't add hypotheses to them:
```lean
@[elab_as_elim]
theorem useless_induction {motive : Nat → Nat → Prop}
    (anything : ∀ x y, motive x y)
    (x : Nat) : motive x (test x) := by
  apply anything

example : test 3 = test (2 + 1) := by
  induction h : 3 using useless_induction with
  | anything x y =>
    sorry -- h : 3 = x but nothing about y

example : test 3 = test (2 + 1) := by
  refine useless_induction (motive := fun a b => 3 = a → test 3 = b → b = _) ?_ 3 rfl rfl
  · intro x y (h : 3 = x) (h' : test 3 = y)
    exact h'.symm
```

**Comment by Rob23oba** [comment]
I guess another way to approach complex arguments is to specify them explicitly and then let defeq do its thing:
```lean
example : test 3 = test (2 + 1) := by
  induction h : 3, h' : test 3 using useless_induction with
  | anything x y => exact h'.symm
```
Then I guess this would also make `foldlRecOn` easier to work with:
```lean
example {xs : List Nat} : xs.foldl (· + ·) 1 > 0 := by
  induction xs.foldl (· + ·) 1 using List.foldlRecOn
```
and functional induction:
```
example : List.foldl (fun a _ => a + 1) b xs = b + xs.length := by
  induction _, _, List.foldl (fun a _ => a + 1) b xs using List.foldl.induct_unfolding _ <;> (simp_all <;> omega)
```
